US04031226
A mixture of 2.2 parts of N-(2-chloroethyl)-2-pyridinecarboxamide hydrochloride, 6.6 parts of 1,3-dihydro-1-(4-piperidinyl)-2H-benzimidazol-2-one, 1.66 parts of potassium iodide and 120 parts of 4-methyl-2-pentanone is stirred and refluxed overnight. After cooling, the precipitated product is filtered off and dissolved in water. The solution is alkalized with sodium carbonate and the product is extracted three times with 4-methyl-2-pentanone. The combined extracts are washed with water, dried, filtered and evaporated. The residue is purified by column-chromatography over silica gel using a mixture of trichloromethane and methanol (95:5 by volume) as eluent. The pure fractions are collected and the element is evaporated. The residue is converted into the hydrochloride salt in 2-propanone and 2-propanol. The salt is filtered off and crystallized from a mixture of ethanol and 2,2'-oxybispropane (1:1 by volume), yielding 2 parts of N-{2-[4-(2,3-dihydro-2-oxo-1H-benzimidazol-1-yl)-1-piperidinyl]-ethyl}-2-pyridinecarboxamide dihydrochloride dihydrate; mp. 165.7° C.

reactant | N-(2-chloroethyl)-2-pyridinecarboxamide hydrochloride | Cl.ClCCNC(=O)C1=NC=CC=C1
reactant | 1,3-dihydro-1-(4-piperidinyl)-2H-benzimidazol-2-one | N1CCC(CC1)N1C(NC2=C1C=CC=C2)=O | C12H15N3O
reactant | potassium iodide | [I-].[K+]
solvent | 4-methyl-2-pentanone | CC(CC(C)=O)C | C6H12O
product | N-{2-[4-(2,3-dihydro-2-oxo-1H-benzimidazol-1-yl)-1-piperidinyl]-ethyl}-2-pyridinecarboxamide dihydrochloride dihydrate | O.O.Cl.Cl.O=C1NC2=C(N1C1CCN(CC1)CCNC(=O)C1=NC=CC=C1)C=CC=C2 | InChI=1S/C20H23N5O2.2ClH.2H2O/c26-19(17-6-3-4-10-21-17)22-11-14-24-12-8-15(9-13-24)25-18-7-2-1-5-16(18)23-20(25)27;;;;/h1-7,10,15H,8-9,11-14H2,(H,22,26)(H,23,27);2*1H;2*1H2
